US07514583B2
To a stirred solution of bis(3,4-methylenedioxy)benzil (500 mg) in dry CH2Cl2 (50 ml) under nitrogen, was slowly added boron tribromide (1.6 ml) then stirring continued for a further 3.5 hours. Methanol (100 ml) was added carefully, then the solvent evaporated in vacuo to a volume of 1 ml, this addition and evaporation was repeated twice more. The product was purified by column chromatography over silica gel when elution with diethylether in dichloromethane gave 3,4,3′,4′-tetrahydroxybenzil (217 mg, 47%) as a yellow powder.

reactant | bis(3,4-methylenedioxy)benzil | 500 mg | C1OC=2C=C(C=CC2O1)C(=O)C(=O)C1=CC2=C(C=C1)OCO2 | C16H10O6
reactant | boron tribromide | 1.6 ml | B(Br)(Br)Br | BBr3
reactant | Methanol | 100 ml | CO | CH4O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 3,4,3′,4′-tetrahydroxybenzil | 217 mg, 47% | OC=1C=C(C=CC1O)C(=O)C(=O)C1=CC(=C(C=C1)O)O | C14H10O6
